US07326731B2
Combine (6-amino-2-hydroxyindan-1-yl)carbamic acid tert-butyl ester (1.5 g, 5.68 mmol) with 5 mL of TFA at 0° C. Stir the mixture for 1 h and then evaporate to dryness. Added 3.0 mL of triethylamine and 30 mL of methylene chloride the residue. To this mixture, add a solution of biphenyl-4-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester (1.76 g, 5.96 mmol) in 15 mL of methylene chloride. Stir the resulting mixture for 12 h. Evaporate solvent and purify the residue by a column chromatography (silica gel/MeOH:CH2Cl2=9:1) to give 1.88 g (96% yield) of biphenyl-4-carboxylic acid (6-amino-2-hydroxyindan-1-yl)amide; MS 345 (MH+).

reactant | (6-amino-2-hydroxyindan-1-yl)carbamic acid tert-butyl ester | 5.68 mmol, 1.5 g | C(C)(C)(C)OC(NC1C(CC2=CC=C(C=C12)N)O)=O | C14H20N2O3
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | biphenyl-4-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester | 5.96 mmol, 1.76 g | O=C1N(C(CC1)=O)OC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C17H13NO4
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | biphenyl-4-carboxylic acid (6-amino-2-hydroxyindan-1-yl)amide | 1.88 g, 96% yield | NC1=CC=C2CC(C(C2=C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)O | C22H20N2O2
